US09029405B2
Step 1: 3-fluoro-4-[(methylamino)methyl]benzonitrile
A solution of 4-cyano-2-fluoro-benzylbromide (15 g, 0.07 mol) in dry THF (50 mL) was added to the 40% aqueous solution of methyl amine (400 mL) at 5-10° C. and allowed to stir for 5 min. The mixture was extracted with DCM and the organic layer was dried over Na2SO4 and concentrated under vacuum, affording the title compound as a brown liquid (10 g, 89%). 1H NMR (DMSO-d6, 400 MHz) δ 7.77 (m, 1H), 7.68-7.61 (m, 2H), 3.71 (s, 2H), 2.24 (s, 3H).

reactant | 4-cyano-2-fluoro-benzylbromide | 0.07 mol, 15 g | C(#N)C1=CC(=C(CBr)C=C1)F | C8H5BrFN
reactant | methyl amine | 400 mL | CN | CH5N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-fluoro-4-[(methylamino)methyl]benzonitrile | 10 g, 89% | FC=1C=C(C#N)C=CC1CNC | C9H9FN2
